US08008307B2
Step b: (1S)-3,3-Dimethylindan-1-amine
A solution of (2R)-2-{[(1S)-3,3-dimethyl-2,3-dihydro-1H-inden-1-yl]amino}-2-phenylethanol (1.44 g, 5.13 mmol) in MeOH (40.0 mL) was added to a stirred solution of lead tetraacetate (3.75 g, 8.03 mmol) in MeOH (60.0 mL) at 0° C. dropwise over 20 min. After stirring for 45 min, the reaction was quenched via addition of a 10% solution of Na2CO3 in H2O (76.0 mL) and the mixture was stirred for 10 min. DCM (200 mL) was then added and the layers were separated. The aqueous layer was extracted with DCM (50.0 mL). The combined organic layers were concentrated in vacuo and the residue was dissolved in EtOH (190. mL) and treated with a 10.4 M aqueous solution of HCl (5.70 mL, 59.3 mmol). The resulting mixture was then heated to reflux for 16 h. The cooled reaction was concentrated in vacuo and partitioned between H2O (150. mL) and Et2O (50.0 mL). The aqueous layer was adjusted to pH 10 via addition of Na2CO3 and extracted with Et2O (3×50.0 mL). The combined organic layers were concentrated in vacuo and silica gel chromatography eluting with a gradient of 0 to 10% MeOH in DCM to afford the title compound as a pale yellow oil (420. mg, 51%). 1H NMR (CD3OD, 300 MHz) δ: 7.34-7.14 (m, 4H), 4.45-4.37 (m, 1H), 2.38 (dd, J=7.1, 12.4 Hz, 1H), 1.73 (bs, 2H), 1.60 (dd, J=8.7, 12.4 Hz, 1H), 1.39 (s, 3H), 1.19 (s, 3H) ppm.

reactant | (2R)-2-{[(1S)-3,3-dimethyl-2,3-dihydro-1H-inden-1-yl]amino}-2-phenylethanol | 5.13 mmol, 1.44 g | CC1(C[C@@H](C2=CC=CC=C12)N[C@@H](CO)C1=CC=CC=C1)C | C19H23NO
reactant | lead tetraacetate | 8.03 mmol, 3.75 g | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
reactant | HCl | 59.3 mmol, 5.70 mL | Cl | ClH
solvent | MeOH | 40.0 mL | CO | CH4O
solvent | MeOH | 60.0 mL | CO | CH4O
product | (1S)-3,3-Dimethylindan-1-amine | 51% | CC1(C[C@@H](C2=CC=CC=C12)N)C | C11H15N
